US04598085
1-[2,4-bis(2,4-dichlorophenyl)butyl]-1H-1,2,4-triazole hydrochloride;
mp. 158.7° C., by the reaction of 1H-1,2,4-triazole with 2,4-bis(2,4-dichlorophenyl)butyl methanesulfonate.

reactant | 1H-1,2,4-triazole | N1N=CN=C1 | C2H3N3
reactant | 2,4-bis(2,4-dichlorophenyl)butyl methanesulfonate | CS(=O)(=O)OCC(CCC1=C(C=C(C=C1)Cl)Cl)C1=C(C=C(C=C1)Cl)Cl | C17H16Cl4O3S
product | 1-[2,4-bis(2,4-dichlorophenyl)butyl]-1H-1,2,4-triazole hydrochloride | Cl.ClC1=C(C=CC(=C1)Cl)C(CN1N=CN=C1)CCC1=C(C=C(C=C1)Cl)Cl | InChI=1S/C18H15Cl4N3.ClH/c19-14-4-3-12(17(21)7-14)1-2-13(9-25-11-23-10-24-25)16-6-5-15(20)8-18(16)22;/h3-8,10-11,13H,1-2,9H2;1H
